US06825212B2
Preparation of 3-[(4-Fluorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine
A solution of 3-[(4-fluorophenyl)thio]-1H-pyrrolo[2,3-b]pyridine (3.36 g, 13.8 mmol) in acetone is treated with a solution of NaHCO3 (2.90 g, 34.5 mmol) in water. The reaction is then treated with Oxone®1 (25.5 g, 41.4 mmol), stirred for 3 h at 20° C., diluted with water, cooled in an ice-water bath and filtered. The filtercake is washed with water and vacuum dried to afford the title compound as a white solid 1.73 g, mp 212-213° C., characterized by mass spectral and NMR analyses.

reactant | 3-[(4-fluorophenyl)thio]-1H-pyrrolo[2,3-b]pyridine | 13.8 mmol, 3.36 g | FC1=CC=C(C=C1)SC1=CNC2=NC=CC=C21 | C13H9FN2S
reactant | NaHCO3 | 34.5 mmol, 2.90 g | C(=O)(O)[O-].[Na+]
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-[(4-Fluorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine | 1.73 g | FC1=CC=C(C=C1)S(=O)(=O)C1=CNC2=NC=CC=C21 | C13H9FN2O2S
